US08034812B2
Production of N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
To a solution of N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (500 mg, 1.20 mmol) in tetrahydrofuran (10 mL) were added chloroacetyl chloride (168 μL, 1.45 mmol) and triethylamine (253 μL, 1.81 mmol), and the mixture was stirred at room temperature for 16 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was washed with ethanol to give the title compound (418 mg, 71%) as a pale-yellow powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 1.20 mmol, 500 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | chloroacetyl chloride | 1.45 mmol, 168 μL | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 1.81 mmol, 253 μL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 418 mg, 71% | ClCC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C22H15ClF3N5O3
